US07678920B2
2-Chloro-5-methylsulfinylpyridine was prepared by the method described in Example I-F from 2-chloro-5-methylthiopyridine using mCPBA as oxidant.

reactant | I-F | IF | FI
reactant | 2-chloro-5-methylthiopyridine | ClC1=NC=C(C=C1)SC | C6H6ClNS
reactant | mCPBA | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | 2-Chloro-5-methylsulfinylpyridine | ClC1=NC=C(C=C1)S(=O)C | C6H6ClNOS
